US08633212B2
A mixture of tert-butyl 6′-bromo-1′-oxo-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate (0.2863 g, 0.8 mmol), 2-(trimethylsilyl)ethanesulfonamide (0.2000 g, 1.1 mmol), and Ti(OEt)4 (0.6900 g, 3.0 mmol) in 1,2-dichloroethane (3 mL) was heated at 110° C. for 20 h. The reaction mixture was then quenched with ice, extracted with CH2Cl2, and dried over Na2SO4. After the solvent was evaporated under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 0.4031 g (96%) of tert-butyl 6′-bromo-1′-(((2-(trimethylsilyl)ethyl)sulfonyl)imino)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate. LC-MS tR=2.31 min in 3 min chromatography, m/z 515, 517 (MH+), 459, 461 (MH+-56).

reactant | tert-butyl 6′-bromo-1′-oxo-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate | 0.8 mmol, 0.2863 g | BrC1=CC=C2CC3(C(C2=C1)=O)CN(C3)C(=O)OC(C)(C)C | C16H18BrNO3
reactant | 2-(trimethylsilyl)ethanesulfonamide | 1.1 mmol, 0.2000 g | C[Si](CCS(=O)(=O)N)(C)C | C5H15NO2SSi
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | tert-butyl 6′-bromo-1′-(((2-(trimethylsilyl)ethyl)sulfonyl)imino)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate | 0.4031 g, 96% | BrC1=CC=C2CC3(C(C2=C1)=NS(=O)(=O)CC[Si](C)(C)C)CN(C3)C(=O)OC(C)(C)C | C21H31BrN2O4SSi
